US05395815
Preparation Example 2: Preparation of 4'-hydroxy-n-nonadecananilide (Example 4)
Under a nitrogen atmosphere, p-aminophenol (109 g) was suspended in methyl ethyl ketone (2000 ml). To this suspension was added triethylamine (253 g) and then was added nonadecanoyl chloride (331 g), followed by refluxing with heating for 2 hours. The reaction mixture was cooled to room temperature to precipitate a white crystal. This crystal was filtered off under reduced pressure and recrystallized from methyl ethyl ketone to obtain 323 g of the desired product. Yield 80%; m.p. 138° C.

reactant | p-aminophenol | 109 g | C1=CC(=CC=C1N)O | C6H7NO
reactant | triethylamine | 253 g | C(C)N(CC)CC | C6H15N
reactant | nonadecanoyl chloride | 331 g | C(CCCCCCCCCCCCCCCCCC)(=O)Cl | C19H37ClO
solvent | methyl ethyl ketone | 2000 ml | C(C)C(=O)C | C4H8O
product | 4'-hydroxy-n-nonadecananilide | 323 g, Yield 80% | OC1=CC=C(NC(CCCCCCCCCCCCCCCCCC)=O)C=C1 | C25H43NO2
